US04732998
Tetra-(acetoxymethyl) (n-butoxymethylene)-bisphosphonate
This compound was prepared as described in Example 51 by substituting (n-butoxymethylene)-bisphosphonic acid for (phenoxymethylene)-bisphosphonic acid and by substituting iodomethyl acetate for iodomethyl pivalate.

reactant | (phenoxymethylene)-bisphosphonic acid | O(C1=CC=CC=C1)C(P(O)(O)=O)P(O)(O)=O | C7H10O7P2
reactant | iodomethyl pivalate | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | Tetra-(acetoxymethyl) (n-butoxymethylene)-bisphosphonate | C(CCC)OC(P(OCOC(C)=O)(OCOC(C)=O)=O)P(OCOC(C)=O)(OCOC(C)=O)=O | C17H30O15P2
